US08871756B2
To a solution of 5-methyl-2,3-dihydro-1,4-benzothiazepine (5.92 g, 33.40 mmol) in methanol (100 mL) was added a solution of sodium borohydride (3.16 g, 83.49 mmol) in water (60 mL). After being stirred at room temperature overnight, the reaction mixture was acidified with concentrated hydrochloric acid, and then stirred at room temperature for 30 minutes. After being adjusted to pH 9 with an aqueous solution of sodium hydroxide, the resulting mixture was extracted with ethyl acetate (60 mL×3). The combined organic layers were washed by brine (100 mL), dried over anhydrous sodium sulfate, and concentrated in vacuo to afford 5.6 g of 5-methyl-2,3,4,5-tetrahydro-1,4-benzothiazepine, MS obsd. (ESI+) [(M+H)+] 180.

reactant | 5-methyl-2,3-dihydro-1,4-benzothiazepine | 33.40 mmol, 5.92 g | CC1=NCCSC2=C1C=CC=C2 | C10H11NS
reactant | sodium borohydride | 83.49 mmol, 3.16 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
solvent | water | 60 mL | O | H2O
product | 5-methyl-2,3,4,5-tetrahydro-1,4-benzothiazepine | 5.6 g | CC1NCCSC2=C1C=CC=C2 | C10H13NS
